US07696210B2
To a mixture of quinoxaline-6-carboxaldehyde (0.10 g, 0.63 mMol) in dry tetrahydrofuran (3 mL) at zero degrees was added methyl magnesium bromide (3M in Et2O, 0.253 mL, 0.76 mMol) drop wise. Upon complete addition the ice bath was removed and the solution allowed to warm to room temperature. The reaction was quenched with methanol and IN hydrochloric acid added until the pH was approximately seven. The neutral solution was partitioned between ethyl acetate and water, the aqueous layer discarded and the organics washed with brine. The organics were dried (MgSO4), filtered, and concentrated to dryness on a rotary evaporator. Purification by flash column chromatography on silica gel using 10-100% methanol in dichloromethane yielded 62 mg (56% yield) of 6-(1-hydroxyethyl)quinoxaline as a clear oil. 1H NMR (DMSO-d6): δ=8.92 (dd, 2H, J=9.1, 1.9 Hz), 8.06 (d, 1H, J=8.6 Hz), 8.02 (d, 1H, J=1.7 Hz), 7.87 (dd, 1H, J=8.7, 1.9 Hz), 5.51 (br s, 1H), 4.99 (q, 1H, J=6.4 Hz), 1.43 (d, 3H, J=6.4 Hz). LC/MS (Method A), rt=0.56 mins., purity=99%, calculated mass=174, [M+H]+=175.

reactant | quinoxaline-6-carboxaldehyde | 0.63 mMol, 0.10 g | N1=CC=NC2=CC(=CC=C12)C=O | C9H6N2O
reactant | methyl magnesium bromide | 0.76 mMol, 3M, 0.253 mL | C[Mg]Br
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 6-(1-hydroxyethyl)quinoxaline | 62 mg, 56% yield | OC(C)C=1C=C2N=CC=NC2=CC1 | C10H10N2O
